US06350750B1
Part C: To a solution of 5.1 g (17.1 mmol) of 2-methyl-4-chloro-8-(2,4,6-trimethylphenyl)-quinoline and 2.68 g (20.6 mmol) of 2-morpholinoethylamine in 150 ml of toluene, after bubbling through nitrogen gas for 30 minutes, a quantity of 2.29 g (23.9 mmol) sodium tertiary butoxide, 0.16 g (0.26 mmol) of 2,2′-bis(diphenylphosphino)-1,1′-binaphtyl (BINAP) and 0.082 g (0.09 mmol) Pd2(dibenzylideneacetone)3 were subsequently added. After heating to 100° C. for 16 hours and subsequent cooling, the reaction mixture was filtered and concentrated in vacuo. The product was purified on a silicagel column using CH2Cl2/MeOH/NH4OH 93:7:0.5 as the eluent. A total of 2.65 g of 2-methyl-4-(N-2-morpholinoethyl)amino-8-(2,4,6-tri-methylphenyl)-quinoline was obtained (40% yield).

reactant | 2-methyl-4-chloro-8-(2,4,6-trimethylphenyl)-quinoline | 17.1 mmol, 5.1 g | CC1=NC2=C(C=CC=C2C(=C1)Cl)C1=C(C=C(C=C1C)C)C | C19H18ClN
reactant | 2-morpholinoethylamine | 20.6 mmol, 2.68 g | O1CCN(CC1)CCN | C6H14N2O
reactant | sodium tertiary butoxide | 23.9 mmol, 2.29 g | CC(C)([O-])C.[Na+]
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
catalyst | 2,2′-bis(diphenylphosphino)-1,1′-binaphtyl | 0.26 mmol, 0.16 g | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
product | 2-methyl-4-(N-2-morpholinoethyl)amino-8-(2,4,6-tri-methylphenyl)-quinoline | 2.65 g, 40% yield | CC1=NC2=C(C=CC=C2C(=C1)NCCN1CCOCC1)C1=C(C=C(C=C1C)C)C | C25H31N3O
